US05888422
9,9,10,10-Tetrafluoro-2,7-dihexyl-9,10-dihydrophenanthrene
4.1 g of 9,9,10,10-tetrafluoro-2,7-dibromo-9,10-dihydrophenanthrene are dissolved in 250 ml of THF and the solution is cooled to 0° C. 120 mg of 1,3-bis(diphenylphosphine)propanenickel(lI) chloride are added, and, at 0° C., 50 mmol of hexylmagnesium bromide in 100 ml of THF are added dropwise. Stirring is continued for 4 hours, and then for a further 18 hours at 50° C. The mixture is acidified with 1N HCl, the aqueous phase is saturated with NaCl and the phases are separated. The aqueous phase is subsequently subjected to extraction a number of times with tert-butyl methyl ether. The crude product is purified by chromatography on silica gel. This gives 3.45 g of 9,9,10,10-tetrafluoro-2,7-dihexyl-9,10-dihydrophenanthrene.

reactant | 9,9,10,10-tetrafluoro-2,7-dibromo-9,10-dihydrophenanthrene | 4.1 g | FC1(C2=CC(=CC=C2C=2C=CC(=CC2C1(F)F)Br)Br)F | C14H6Br2F4
reactant | hexylmagnesium bromide | 50 mmol | C(CCCCC)[Mg]Br
reactant | HCl | 1N | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 9,9,10,10-Tetrafluoro-2,7-dihexyl-9,10-dihydrophenanthrene | FC1(C2=CC(=CC=C2C=2C=CC(=CC2C1(F)F)CCCCCC)CCCCCC)F | C26H32F4
